US06063932
methyl α-(benzoylamino)-4'-sulfo[1,1'-biphenyl]-4-acetate
To a mixture of 12.46 g (30.31 mmol) of α-(benzoylamino)-4'-sulfo[1,1'-biphenyl]-4-acetic acid in 60 mL of methanol was added 6 g of anhydrous hydrogen chloride. When the addition was complete, the mixture was stirred for 2.5 h. The solvent was removed under reduced pressure.

reactant | α-(benzoylamino)-4'-sulfo[1,1'-biphenyl]-4-acetic acid | 30.31 mmol, 12.46 g | C(C1=CC=CC=C1)(=O)NC(C(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C21H17NO6S
reactant | hydrogen chloride | 6 g | Cl | ClH
reactant | methanol | 60 mL | CO | CH4O
product | methyl α-(benzoylamino)-4'-sulfo[1,1'-biphenyl]-4-acetate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C22H19NO6S
